US05004741
(S)-N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-3-phenyl-2-propenamide
Equimolar amounts of 3(S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one, cinnamoyl chloride, and triethylamine were mixed in CH2Cl2 at room temperature and stirred 10 minutes. Flash chromatography of the reaction solution on silica gel (10% Et2O in CH2Cl2) provided the title compound as a white solid after removal of the solvent: m.p. 126°-140° C.

reactant | 3(S)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | N[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | cinnamoyl chloride | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-3-phenyl-2-propenamide | CN1C([C@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(C=CC2=CC=CC=C2)=O)=O | C25H21N3O2
